US07005430B2
8-(tert-Butyl)-6-chloro-2-methylthiopurine (Compound C7)
4,5-Diamino-6-hydroxy-2-mercaptopyrimidine (15.0 g, 94.8 mmol) was dissolved in pyridine (200 mL), to the solution was added pivaloyl chloride (14.0 mL, 0.11 mol, 1.2 equivalents), and then the mixture was stirred at room temperature for 12 hours. After the reaction solution was concentrated, to the residue was added acetone, and the deposited solid (18.5 g, 81%) was collected by filtration. The resulting solid was dissolved in 0.5 mol/L aqueous sodium hydroxide (150 mL), to the solution was added methyl iodide (5.30 mL, 85.1 mmol, 1.1 equivalents), and the mixture was stirred overnight at room temperature. After the reaction mixture was cooled on an ice bath and adjusted to pH 6.5 with 4 mol/L hydrochloric acid, the deposited solid (19.6 g, 99%) was collected by filtration. To the resulting solid was added phosphorus oxychloride (60 mL, 0.643 mol, 8.4 equivalents) and the mixture was refluxed with heating for 5 hours. After the reaction solution was concentrated under reduced pressure and the solvent was azeotroped with toluene, ethyl acetate and saturated aqueous sodium hydrogen carbonate were carefully added to the residue, and then the mixture was stirred at room temperature for 30 minutes. The reaction mixture was extracted with ethyl acetate, the organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate, and then the solvent was evaporated. The residue was purified by silica gel column chromatography (chloroform:methanol=95:5) to obtain the title compound (16.7 g, 90%).

reactant | 4,5-Diamino-6-hydroxy-2-mercaptopyrimidine | 94.8 mmol, 15.0 g | NC1=NC(=NC(=C1N)O)S | C4H6N4OS
reactant | pivaloyl chloride | 0.11 mol, 14.0 mL, 1.2 equivalents | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | methyl iodide | 85.1 mmol, 5.30 mL, 1.1 equivalents | CI | CH3I
reactant | hydrochloric acid | 4 mol/L | Cl | ClH
reactant | phosphorus oxychloride | 0.643 mol, 60 mL, 8.4 equivalents | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
product | 8-(tert-Butyl)-6-chloro-2-methylthiopurine | 16.7 g, 90% | C(C)(C)(C)C1=NC2=NC(=NC(=C2N1)Cl)SC | C10H13ClN4S
